US06316637B1
4,6-Dibromo-5-(2-imidazolin-2-ylamino)benzimidazole (#50).
To a solution of 4-bromo-5-(2-imidazolin-2-ylamino)benzimidazole (0.2 g, 0.7 mmol) in 10 ml AcOH was added 200 mg of Hg(OAc)2 and few drops of Br2. Reaction mixture was concentrated in vacuo, yielding a dark oily residue, which was subjected to silica gel column chromatography (NH3 sat'd 30% MeOH/EtOAc) to provide 210 mg (0.58 mmol, 86%) of the desired product. The product obtained was converted to the fumarate salt and recrystallized from EtOH to afford 0.051 g (14%) of the product as a white solid.

reactant | 4-bromo-5-(2-imidazolin-2-ylamino)benzimidazole | 0.7 mmol, 0.2 g | BrC1=C(C=CC=2N=CNC21)NC=2NCCN2 | C10H10BrN5
reactant | Br2 | BrBr | Br2
reactant | NH3 | N | H3N
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
catalyst | Hg(OAc)2 | 200 mg | [Hg](OC(=O)C)OC(=O)C
product | 4,6-Dibromo-5-(2-imidazolin-2-ylamino)benzimidazole | 0.58 mmol, 210 mg, 86% | BrC1=C(C(=CC=2N=CNC21)Br)NC=2NCCN2 | C10H9Br2N5
